US06867224B2
Preparation of 5-Hydroxy-benzofuran-2-carboxylic acid methyl ester (Compound 6A)
A solution of 5-dimethylthiocarbamoyloxy-benzofuran-2-carboxylic acid methyl ester (1.3 g, 4.7 mmol) in 25 mL diphenyl ether was heated at reflux for 2.5 hours. The reaction mixture was then cooled and the resulting precipitate collected. Purification by flash column chromatography (gradient elution: 100% hexanes to 45% EtOAc/hexanes), gave the title compound (0.58 g, 45%) as a brown solid.

reactant | 5-dimethylthiocarbamoyloxy-benzofuran-2-carboxylic acid methyl ester | 4.7 mmol, 1.3 g | COC(=O)C=1OC2=C(C1)C=C(C=C2)OC(N(C)C)=S | C13H13NO4S
solvent | diphenyl ether | 25 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 5-Hydroxy-benzofuran-2-carboxylic acid methyl ester | 0.58 g, 45% | COC(=O)C=1OC2=C(C1)C=C(C=C2)O | C10H8O4
